US07727985B2
2-chloro-N-[6-chloro-7-(4-methyl-piperazin-1-yl)-9H-β-carbolin-8-yl]-nicotinamide
The desired compound was prepared according to Method A from 6-chloro-7-(4-methyl-piperazin-1-yl)-8-amino-9H-β-carboline and 2-chloro-nicotinic acid in 25% yield.

reactant | 6-chloro-7-(4-methyl-piperazin-1-yl)-8-amino-9H-β-carboline | ClC=1C=C2C=3C=CN=CC3NC2=C(C1N1CCN(CC1)C)N | C16H18ClN5
reactant | 2-chloro-nicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
product | 2-chloro-N-[6-chloro-7-(4-methyl-piperazin-1-yl)-9H-β-carbolin-8-yl]-nicotinamide | 25% yield | ClC1=C(C(=O)NC=2C(=C(C=C3C=4C=CN=CC4NC23)Cl)N2CCN(CC2)C)C=CC=N1 | C22H20Cl2N6O
